US07652015B2
Place 4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (200 mg, 0.718 mmol), diisopropylethylamine (0.125 mL, 0.718 mmol), and (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid, 2,2,2-trichloro-ethyl ester (Preparation 38, 291 mg, 0.718 mmol) in DMSO (5 mL) and heat to 75° C. for 17 hours. Cool to room temperature and add EtOAc and water. Separate organic layer and wash with saturated aq. sodium chloride (2×20 mL). Collect organic layer, dry over Mg2SO4, filter, and concentrate under reduced pressure. Subject residue to silica gel chromatography eluting with 0-70% EtOAc:hexane to yield 328 mg (85%) of 4-{5-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester. MS(ES+): m/z=534.4 [M+H]).

reactant | 4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.718 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)N | C14H22N4O2
reactant | diisopropylethylamine | 0.718 mmol, 0.125 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid, 2,2,2-trichloro-ethyl ester | 0.718 mmol, 291 mg | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(OCC(Cl)(Cl)Cl)=O | C17H20Cl3N3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-{5-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | 328 mg, 85% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C | C29H39N7O3
